US08877744B2
The reaction of (R)-5-[5-(3-chloro-phenylethynyl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one (233 mg, 552 μmol) with Lawesson's reagent (230 mg, 552 μmol) in 1,4-dioxane (15 ml) yielded the (R)-5-[5-(3-chloro-phenylethynyl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione (129 mg, 53% yield) as a light yellow foam. MS (ISP): m/z=438.1 [M+H]+ and 440.2 [M+2+H]+.

reactant | (R)-5-[5-(3-chloro-phenylethynyl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one | 552 μmol, 233 mg | ClC=1C=C(C=CC1)C#CC=1C=CC(=C(C1)[C@]1(NC(COC(C1(F)F)(C)C)=O)C)F | C22H19ClF3NO2
reactant | Lawesson's reagent | 552 μmol, 230 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | (R)-5-[5-(3-chloro-phenylethynyl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione | 129 mg, 53% yield | ClC=1C=C(C=CC1)C#CC=1C=CC(=C(C1)[C@]1(NC(COC(C1(F)F)(C)C)=S)C)F | C22H19ClF3NOS
